US07785768B2
30 g (0.11 mol) of benzyl-4-hydroxyphenylmethylsulfonium chloride obtained by reacting benzyl chloride with 4-hydroxyphenylmethyl sulfide was dissolved in 500 mL of water, 33.9 g (0.118 mol) of bis(trifluoromethane sulfonyl)imide lithium and 500 mL of ethyl acetate were added thereto, and then stirred at 5 to 10° C. for two hours. The water layer was removed, the organic layer was dried, and then the reaction solution was concentrated under reduced pressure and dried under vacuum. The resulting oily matter was treated with hexane, and then dried under vacuum again. Then, 44.1 g of benzyl-4-hydroxyphenylmethylsulfonium bis(trifluoromethane sulfonyl)imide was obtained in a white crystal (yield: 76.7%). The melting point was 76 to 80° C.

reactant | benzyl chloride | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | 4-hydroxyphenylmethyl sulfide | OC1=CC=C(C=C1)CSCC1=CC=C(C=C1)O | C14H14O2S
reactant | bis(trifluoromethane sulfonyl)imide lithium | 0.118 mol, 33.9 g | [Li+].[N-](S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F
reactant | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 500 mL | O | H2O
product | benzyl-4-hydroxyphenylmethylsulfonium bis(trifluoromethane sulfonyl)imide | 44.1 g | [N-](S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F.C(C1=CC=CC=C1)[SH+]CC1=CC=C(C=C1)O | InChI=1S/C14H14OS.C2F6NO4S2/c15-14-8-6-13(7-9-14)11-16-10-12-4-2-1-3-5-12;3-1(4,5)14(10,11)9-15(12,13)2(6,7)8/h1-9,15H,10-11H2;/q;-1/p+1
